US06458802B1
Toluene-4-sulfonic Acid 8-(3-Nitrilo-propenyl)-7-nitro-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl Ester
To a suspension of 0.44 g (11 mmole) of 60% sodium hydride/mineral oil dispersion in 100 mL of DMF was add 1.8 g (10 mmole) of diethyl cyanomethylphosphonate. The mixture was stirred for 30 minutes at room temperature under nitrogen and then 3.0 g (7.6 mmole) of [(2R)-8-formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate added and stirring at room temperature continued overnight. The solvent was then removed in vacuum and replaced with 400 mL of dichloromethane. The solution was washed with 300 mL portions of water and saturated brine, dried over sodium sulfate, filtered and concentrated in vacuum to a yellow oil. This was column chromatographed on silica gel with methylene chloride as eluant to give 2.5 g of the (R)-enantiomer of the title compound as a yellow solid (m.p. 117-118° C.).

reactant | sodium hydride | 11 mmole, 0.44 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 10 mmole, 1.8 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | [(2R)-8-formyl-7-nitro-2,3-dihydro-1,4-benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | 7.6 mmole, 3.0 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C(=C(C=C2)[N+](=O)[O-])C=O | C17H15NO8S
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | Toluene-4-sulfonic Acid 8-(3-Nitrilo-propenyl)-7-nitro-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl Ester | N#CC=CC1=C(C=CC2=C1OC(CO2)COS(=O)(=O)C2=CC=C(C=C2)C)[N+](=O)[O-] | C19H16N2O7S
